US07977367B2
Intermediate: benzyl 5-aminopyrazine-2-carboxylate (I-22a)
5-aminopyrazine-2-carboxylic acid (493 mg, 3.54 mmol; Ark Pharm, Inc., Libertyville, Ill.) was stirred in dry N,N-dimethylformamide (3.0 mL) at room temperature under nitrogen. Solid potassium carbonate (742 mg, 5.37 mmol) was added, followed by benzyl bromide (0.43 mL, 3.6 mmol). The mixture was stirred for 22 hours and then diluted with ethyl acetate and water. The layers were separated, and the aqueous layer was extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate, filtered, and evaporated. The residue was purified by silica chromatography using a 40 g pre-packed column, eluting with ethyl acetate. The product fractions were combined, evaporated, and dried under high vacuum to afford (I-22a) (161.2 mg, 0.70 mmol, 20%): m/z 229.9 (M+H)+.

reactant | 5-aminopyrazine-2-carboxylic acid | 3.54 mmol, 493 mg | NC=1N=CC(=NC1)C(=O)O | C5H5N3O2
reactant | potassium carbonate | 5.37 mmol, 742 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 3.6 mmol, 0.43 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | benzyl 5-aminopyrazine-2-carboxylate | NC=1N=CC(=NC1)C(=O)OCC1=CC=CC=C1 | C12H11N3O2
